US05863947
A stirred mixture of 4-cyano-2-fluorobenzaldehyde (1.94 g, 13 mmol), potassium cyanide (1.69 g, 26 mmol) and ammonium carbonate (4.99 g, 52 mmol) in ethanol-water ((1:1, 20 ml) was heated to 80° C. for 12 hours in a PTFE lined stainless steel sealed reaction vessel. The cooled mixture was diluted with water and cautiously acidified with concentrated hydrochloric acid (15 ml). Extraction with chloroform (2×30 ml) gave 5-(4-cyano-2-fluorophenyl)hydantoin as a yellow glass.

reactant | 4-cyano-2-fluorobenzaldehyde | 13 mmol, 1.94 g | C(#N)C1=CC(=C(C=O)C=C1)F | C8H4FNO
reactant | potassium cyanide | 26 mmol, 1.69 g | [C-]#N.[K+]
reactant | ammonium carbonate | 52 mmol, 4.99 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | ethanol water | C(C)O.O
solvent | water | O | H2O
product | 5-(4-cyano-2-fluorophenyl)hydantoin | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)F | C10H6FN3O2
